US08242153B2
In analogy to example 1d (S)-2-amino-4-(4-fluoro-phenylsulfanyl)-butan-1-ol was reacted with cyanogen bromide to give (S)-4-[2-(4-fluoro-phenylsulfanyl)-ethyl]-4,5-dihydro-oxazol-2-ylamine. Colourless oil. MS (ISP): 241.2 ([M+H]+).

reactant | (S)-2-amino-4-(4-fluoro-phenylsulfanyl)-butan-1-ol | N[C@H](CO)CCSC1=CC=C(C=C1)F | C10H14FNOS
reactant | cyanogen bromide | N#CBr | CBrN
product | (S)-4-[2-(4-fluoro-phenylsulfanyl)-ethyl]-4,5-dihydro-oxazol-2-ylamine | FC1=CC=C(C=C1)SCC[C@@H]1N=C(OC1)N | C11H13FN2OS
